US05811433
c. 7-Chloro-8-fluoro-1-(2,4-difluorophenyl)-1,4-dihydro-4-oxo-1,6-naphthyridine-3-carboxylic acid
2.9 g (7.6 mmol) of ethyl 7-chloro-8-fluoro-1-(2,4-difluorophenyl)-1,4-dihydro-4-oxo-1,6-naphthyridine-3-carboxylate are heated at reflux in a mixture of 10 ml of acetic acid, 10 ml of water and 1 ml of concentrated sulphuric acid for two hours. The cooled mixture is put into ice-water, and the product is isolated and washed with water.

reactant | ethyl 7-chloro-8-fluoro-1-(2,4-difluorophenyl)-1,4-dihydro-4-oxo-1,6-naphthyridine-3-carboxylate | 7.6 mmol, 2.9 g | ClC1=NC=C2C(C(=CN(C2=C1F)C1=C(C=C(C=C1)F)F)C(=O)OCC)=O | C17H10ClF3N2O3
reactant | water | 10 ml | O | H2O
reactant | sulphuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 7-Chloro-8-fluoro-1-(2,4-difluorophenyl)-1,4-dihydro-4-oxo-1,6-naphthyridine-3-carboxylic acid | ClC1=NC=C2C(C(=CN(C2=C1F)C1=C(C=C(C=C1)F)F)C(=O)O)=O | C15H6ClF3N2O3
